US08669254B2
{[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid
A solution of 4.00 g {[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid tert-butyl ester in 20 ml trifluoroacetic acid was kept at ambient temperature for 30 min. The solvent was evaporated and the residue was dried under high vacuum. The residue was taken up in toluene and the solvent was evaporated to leave a semi solid residue. The residue was taken up in toluene and dichloromethane and the solvents were evaporated to leave a crystalline residue which was taken up in heptane and ethyl acetate and stirred until homogenous slurry was obtained. The solid was collected by filtration, washed with heptane and dried to constant weight to yield 3.47 g of the title compound as white crystalline powder. MS (EI): 422 (M+).

reactant | {[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid tert-butyl ester | 4.00 g | C(C)(C)(C)OC(CNC(=O)C=1C=NC(=C(C1)C1=CC(=C(C=C1)Cl)Cl)OCC(F)(F)F)=O | C20H19Cl2F3N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
product | {[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid | 3.47 g | ClC=1C=C(C=CC1Cl)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NCC(=O)O | C16H11Cl2F3N2O4
